US07429583B2
e) ethyl (2-amino-6-methoxy-phenyl)-carbamate
25.0 g (0.104 mol) ethyl (2-methoxy-6-nitro-phenyl)-carbamate are dissolved in 400 mL methanol. 116.4 g (0.516 mol) SnCl2 2H2O are added and the mixture is refluxed for 3 hours. The reaction mixture is evaporated down, combined with sodium carbonate solution and filtered. The aqueous phase is repeatedly extracted with dichloromethane and the combined organic phases are washed with sodium chloride solution, dried and evaporated down. The residue that crystallises out on standing is stirred with isopropanol. Yield: 13.0 g (59%); mass spectroscopy: [M+H]+=211.

reactant | ethyl (2-methoxy-6-nitro-phenyl)-carbamate | 0.104 mol, 25.0 g | COC1=C(C(=CC=C1)[N+](=O)[O-])NC(OCC)=O | C10H12N2O5
reactant | SnCl2 | 0.516 mol, 116.4 g | Cl[Sn]Cl
solvent | methanol | 400 mL | CO | CH4O
product | ethyl (2-amino-6-methoxy-phenyl)-carbamate | NC1=C(C(=CC=C1)OC)NC(OCC)=O | C10H14N2O3
